US04021432
A mixture of 28.3 parts of 2,2,6,6-tetramethyl-4-piperidinyl-n-octanoate and 8.55 parts of benzyl bromide was stirred and heated at 105° C. for 72 hours. Ether was added to the cooled reaction mixture and the 2,2,6,6-tetramethyl-4-piperidinyl-n-octanoate hydrobromide formed during the reaction was filtered off. The ether solvent was removed by distillation under reduced pressure and the residue distilled under rediced pressure to give 16.40 parts of 1-benzyl-2,2,6,6-tetramethyl-4-piperidinyl-n-octanoate having a boiling point of 180° C. at 0.1 mm of Hg and the following elemental analysis by weight:

reactant | 2,2,6,6-tetramethyl-4-piperidinyl-n-octanoate | CC(C(=O)[O-])(CC(CC(CC)(C)C)N1CCCCC1)C
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
solvent | Ether | CCOCC | C4H10O
product | 2,2,6,6-tetramethyl-4-piperidinyl-n-octanoate hydrobromide | Br.CC(C(=O)O)(CC(CC(CC)(C)C)N1CCCCC1)C | InChI=1S/C17H33NO2.BrH/c1-6-16(2,3)12-14(13-17(4,5)15(19)20)18-10-8-7-9-11-18;/h14H,6-13H2,1-5H3,(H,19,20);1H
